US07241785B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyloxazole (10.0 g), 4-hydroxyphenylmethyl acetate (8.41 g), potassium carbonate (14.0 g) and N,N-dimethylformamide (50 ml) was stirred at 70° C. for 1 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetate (9.23 g, yield 56%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio).

reactant | 4-chloromethyl-2-(2-furyl)-5-methyloxazole | 10.0 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 4-hydroxyphenylmethyl acetate | 8.41 g | C(C)(=O)OCC1=CC=C(C=C1)O | C9H10O3
reactant | potassium carbonate | 14.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetate | 9.23 g, yield 56% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CC(=O)OC)C | C18H17NO5
